.SUBCKT gf180mcu_fd_sc_mcu9t5v0__inv_12 I ZN VDD VSS
*.PININFO I:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!I
M_i_0_0 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_2 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_3 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_4 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_5 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_6 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_7 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_8 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_9 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_10 ZN I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_11 VSS I ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_1 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_2 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_3 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_4 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_5 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_6 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_7 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_8 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_9 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_10 ZN I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_11 VDD I ZN VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
